US05442060
To a solution of 800 mg (6.00 mmol) of anhydrous aluminum chloride in 5 ml of methylene chloride were added 0.43 g (6.05 mmol) of acetyl chloride with stirring and ice cooling and then dropwise a solution of 925 mg (3.00 mmol) of 3-(2, 3-dimethoxyphenyl)octanoic acid ethyl ester in 3 ml of methylene chloride. The resultant mixture was allowed to react under ice cooling for 20 minutes and added portionwise into ice water. The organic layer was separated, and the aqueous layer was extracted with methylene chloride. The organic layers were combined, washed with water and aqueous saturated sodium hydrogencarbonate, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue was chromatographed on a silica gel column, eluting with ethyl acetate/hexane (1/5) to give 900 mg of 3-(5-acetyl-2, 3-dimethoxyphenyl)octanoic acid ethyl ester as a colorless oil. Yield, 86%.

reactant | aluminum chloride | 6.00 mmol, 800 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 6.05 mmol, 0.43 g | C(C)(=O)Cl | C2H3ClO
reactant | 3-(2, 3-dimethoxyphenyl)octanoic acid ethyl ester | 3.00 mmol, 925 mg | C(C)OC(CC(CCCCC)C1=C(C(=CC=C1)OC)OC)=O | C18H28O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-(5-acetyl-2, 3-dimethoxyphenyl)octanoic acid ethyl ester | 900 mg | C(C)OC(CC(CCCCC)C1=C(C(=CC(=C1)C(C)=O)OC)OC)=O | C20H30O5
